US07589206B2
b) 1-[7-(3,5-Difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt
1-[7-(3,5-Difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone (24 mg) was dissolved in warm ethanol (5 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops) The mixture was evaporated, triturated with diethyl ether and filtered off then dried at 40° C. under vacuum to afford the title compound (20 mg).

reactant | 1-[7-(3,5-Difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone | 24 mg | FC=1C=C(C=C(C1)F)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C20H20F2N4O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | diethyl ether | 10 drops | C(C)OCC | C4H10O
product | 1-[7-(3,5-Difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt | 20 mg | Cl.FC=1C=C(C=C(C1)F)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | InChI=1S/C20H20F2N4O2.ClH/c1-12-11-25(2)18-17(12)16(20(27)26-3-5-28-6-4-26)10-23-19(18)24-15-8-13(21)7-14(22)9-15;/h7-11H,3-6H2,1-2H3,(H,23,24);1H
